US05811389
Analogously to that described in Example 2.1.1.ga, a solution of 500 mg (1.04 mmol) of [6-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-ylmethyl)-10-hexyl-phenothiazin-4-yl]-acetonitrile in 5 ml of dioxan was treated with 2 ml of hydrazine hydrate solution (1M in ethanol) and the resulting 6-aminomethyl-10-hexyl-phenothiazin-4-yl)-acetonitrile was converted using a solution of fuming hydrochloric acid in dioxan into 6-aminomethyl-10-hexyl-phenothiazine-4-acetic acid which was then reacted with 273 mg (1.25 mmol) of di-tert-butyl dicarbonate in dioxan analogously to that described in Example 2.1.1.ga. After. chromatography on silica gel with chloroform/methanol (9:1) 395 mg (85%) of 6-[(1-tert-butoxyformamido)methyl]-10-hexyl-phenothiazine4acetic acid were obtained as an amorphous solid. MS (FAB): 447 (M+ +1), 446 (M+).

reactant | [6-(1,3-dioxo-2,3-dihydro-1H-isoindol-2-ylmethyl)-10-hexyl-phenothiazin-4-yl]-acetonitrile | 1.04 mmol, 500 mg | O=C1N(C(C2=CC=CC=C12)=O)CC1=C2SC=3C(=CC=CC3N(C2=CC=C1)CCCCCC)CC#N | C29H27N3O2S
reactant | hydrazine hydrate | 1M, 2 ml | O.NN
reactant | hydrochloric acid | Cl | ClH
reactant | 6-aminomethyl-10-hexyl-phenothiazine-4-acetic acid | NCC1=C2SC=3C(=CC=CC3N(C2=CC=C1)CCCCCC)CC(=O)O | C21H26N2O2S
reactant | di-tert-butyl dicarbonate | 1.25 mmol, 273 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dioxan | 5 ml | O1CCOCC1 | C4H8O2
solvent | chloroform methanol | 395 mg | C(Cl)(Cl)Cl.CO
solvent | acetonitrile | C(C)#N | C2H3N
product | 6-[(1-tert-butoxyformamido)methyl]-10-hexyl-phenothiazine4acetic acid | C(C)(C)(C)OC(=O)NCC1=C2SC=3C(=CC=CC3N(C2=CC=C1)CCCCCC)CC(=O)O | C26H34N2O4S
